US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-(1H-pyrrol-1-yl)benzamide
To a solution of 4-(1H-pyrrol-1-ylbenzoic acid (96 mg, 0.51 mmol) in anhydrous N,N-dimethylformamide (25 mL) was added 1,1'-carbonyldiimidazole (87 mg, 0.54 mmol) and the reaction was heated at 75° C. When the carbon dioxide evolution had ceased (after 30 min), the reaction was cooled to room temperature and a solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (120 mg, 0.49 mmol) in anhydrous N,N-dimethylformamide (5 mL) was added. The reaction was allowed to stir at ambient temperature for 17 h and the solvent was evaporated in vacuo. Purification on a silica gel column using chloroform/ethanol saturated with NH3 (100:3) as the eluent gave 128 mg (62% yield) of the title compound as white crystals: mp 245-247° C.; [α]21D -69° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 414 (15, M+).

reactant | 1H-pyrrol-1-ylbenzoic acid | 0.51 mmol, 96 mg | N1(C=CC=C1)C1=C(C(=O)O)C=CC=C1 | C11H9NO2
reactant | 1,1'-carbonyldiimidazole | 0.54 mmol, 87 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.49 mmol, 120 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-(1H-pyrrol-1-yl)benzamide | 128 mg, 62% yield | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC=C(C=C1)N1C=CC=C1)=O | C26H30N4O
